US07229958B2
A mixture of 94.5 g (1.0 mol) of monochloroacetic acid and 203.2 g (1.4 mol) of 3,7-dimethyl-6-octen-1-ol (citronellol) was heated for 6 h at 50 mbar to 130° C., wherein the water formed by esterification was distilled off via a column. The reaction mixture obtained had an acid value of 5 mg KOH/g. Unreacted citronellol was then distilled off at 6 mbar and a bottoms temperature of up to 130° C. Distillation of the residue at 6 mbar yielded 198 g of chloroacetic acid citronellyl ester as a colourless liquid.

reactant | monochloroacetic acid | 1.0 mol, 94.5 g | ClCC(=O)O | C2H3ClO2
reactant | 3,7-dimethyl-6-octen-1-ol | 1.4 mol, 203.2 g | CC(CCO)CCC=C(C)C | C10H20O
reactant | citronellol | CC(C)=CCCC(C)CCO | C10H20O
catalyst | KOH | 5 mg | [OH-].[K+]
solvent | water | O | H2O
product | chloroacetic acid citronellyl ester | 198 g | C(CC(C)CCC=C(C)C)OC(CCl)=O | C12H21ClO2
